### PR TITLE
[Merged by Bors] - feat(Data/Set/Pointwise/Interval): inclusions of pointwise +/*

### PR DESCRIPTION
**Pull request by eric-wieser**
As remarked in the docstring, to avoid an explosion of lemmas, the subset operations only cover the cases with the largest possible intervals on the LHS: to conclude that `Ioo a b * Ioo c d ⊆ Ioo (a * c) (c * d)`, you can use monotonicity of `*` and `Finset.Ico_mul_Ioc_subset`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Pointwise/Interval.lean [hunk 1]
```diff
@@ -27,6 +27,93 @@ variable {α : Type*}
...
+
+@[to_additive]
+theorem Ici_mul_Ici_subset (a b : α) :
+    Set.Ici a * Set.Ici b ⊆ Set.Ici (a * b) := by
+  rintro x ⟨y, z, hya, hzb, rfl⟩
+  exact mul_le_mul' hya hzb
+
+@[to_additive]
+theorem Iic_mul_Iic_subset (a b : α) :
+    Set.Iic a * Set.Iic b ⊆ Set.Iic (a * b) := by
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Pointwise/Interval.lean:56]: Surely you don't need to fully qualify anything?
```suggestion
    Iic a * Iic b ⊆ Iic (a * b) := by
```

File: Mathlib/Data/Set/Pointwise/Interval.lean [hunk 2]
```diff
@@ -27,6 +27,93 @@ variable {α : Type*}
...
+
+Note that the subset operations below only cover the cases with the largest possible intervals on
+the LHS: to conclude that `Ioo a b * Ioo c d ⊆ Ioo (a * c) (c * d)`, you can use monotonicity of `*`
+and `Set.Ico_mul_Ioc_subset`.
+-/
+
+section ContravariantMulLE
+
+variable [Mul α] [Preorder α]
+variable [CovariantClass α α HMul.hMul LE.le] [CovariantClass α α (Function.swap HMul.hMul) LE.le]
```
Comment (b-mehta) [inline Mathlib/Data/Set/Pointwise/Interval.lean:40]: I think these are easier to read as `(· * ·)` etc, but it's up to you

**Review by YaelDillies — COMMENTED** [review]
Can we also the finset lemmas?

File: Mathlib/Data/Set/Pointwise/Interval.lean [hunk 3]
```diff
@@ -27,6 +27,93 @@ variable {α : Type*}
 
 namespace Set
 
+/-! ### Binary pointwise operations
+
+Note that the subset operations below only cover the cases with the largest possible intervals on
+the LHS: to conclude that `Ioo a b * Ioo c d ⊆ Ioo (a * c) (c * d)`, you can use monotonicity of `*`
+and `Set.Ico_mul_Ioc_subset`.
```
Comment (b-mehta) [inline Mathlib/Data/Set/Pointwise/Interval.lean:34]: Can we have a TODO for the analogous lemmas in the generality of `mul_le_mul` rather than `mul_le_mul'`? I need these for the exponential ramsey project, so I don't mind PRing them myself later. But of course feel free to add them here anyway.

Comment (eric-wieser) [reply Mathlib/Data/Set/Pointwise/Interval.lean:34]: Done. I moved all my existing lemmas to occupy the primed names.

Comment (YaelDillies) [reply Mathlib/Data/Set/Pointwise/Interval.lean:34]: I think you should unprime them and have `\_0` or `_of_pos`/`_of_nonneg` for the other ones instead. I'm trying to deprecate priming ordered monoid lemmas (it leads to a confusing mess of a naming convention) and I would like there not to be more lemma names to fix.

Comment (eric-wieser) [reply Mathlib/Data/Set/Pointwise/Interval.lean:34]: I'd rather optimize for current consistency rather than eventual consistency that may be never be reached.

**Comment by eric-wieser** [comment]
> Can we also the finset lemmas?

Done

File: Mathlib/Data/Set/Pointwise/Interval.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Data/Set/Pointwise/Interval.lean:34]: Well yeah, if you work against it...

Comment (YaelDillies) [reply Mathlib/Data/Set/Pointwise/Interval.lean:34]: This is a very real thing that is going to happen really soon, btw. I have a gitpod with 150 files changed in it to fix one collection of lemma names, and `mul_le_mul'` will be my next batch.

Comment (eric-wieser) [reply Mathlib/Data/Set/Pointwise/Interval.lean:34]: At this point me reverting the names now is no harder than you doing so in your chain of PRs, and thematically the de-priming makes much more sense there.

**Review by YaelDillies — APPROVED** [review]
I think this is good enough for now.

maintainer merge

**Comment by fpvandoorn** [comment]
bors merge
